US07157487B2
(Step 3) Synthesis of di-tert-butyl 3-fluoro-5-methoxy-4-nitrophenylmalonate
In DMF (60 ml) was suspended sodium hydride (2.75 g, 68.7 mmol). Under stirring at 0° C., di-tert-butyl malonate (14.9 g, 68.7 mmol) was added dropwise. After vigorous emission of a hydrogen gas stopped, a solution of 3,5-difluoro-2-nitroanisole (5.20 g, 27.5 mmol) in DMF (40 ml) was added. The reaction mixture was stirred at 80° C. for 4 hours. After cooling the reaction mixture to room temperature, water (200 ml) was added to terminate the reaction, followed by extraction with ether (300 ml). The extract was washed with saturated brine (200 ml), dried over anhydrous magnesium sulfate and distilled reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby hexane-ethyl acetate (10:1) eluate fractions, the title compound (6.56 g, 62%) was obtained as an yellow oil.

reactant | sodium hydride | 68.7 mmol, 2.75 g | [H-].[Na+]
reactant | di-tert-butyl malonate | 68.7 mmol, 14.9 g | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | hydrogen | [H][H] | H2
reactant | 3,5-difluoro-2-nitroanisole | 27.5 mmol, 5.20 g | FC=1C(=C(C=C(C1)F)OC)[N+](=O)[O-] | C7H5F2NO3
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | di-tert-butyl 3-fluoro-5-methoxy-4-nitrophenylmalonate | 6.56 g, 62% | FC=1C=C(C=C(C1[N+](=O)[O-])OC)C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H24FNO7
